US06013832
Toluene (18 g) was added to a mixture of acetic acid (25 ml) and hydrobromic acid (95 ml), followed by trioxane (6.6 g) and benzyltriethylammonium bromide (2.0 g). The mixture was then heated to 70° C. and stirred well at the same temperature for 20 hours. After cooling to room temperature, the mixture was extracted with dichloromethane and then concentrated to give oil residue. The oil residue was distilled under vacuum to give the target product, 4-bromomethyltoluene (30.0 g). Result of measurement by NMR(CDCl3, ppm) was 2.4(3H, s), 4.5(2H, s), 7.3(4H, dd).

reactant | Toluene | 18 g | C1(=CC=CC=C1)C | C7H8
reactant | hydrobromic acid | 95 ml | Br | BrH
reactant | trioxane | 6.6 g | O1OOCCC1 | C3H6O3
catalyst | benzyltriethylammonium bromide | 2.0 g | [Br-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-bromomethyltoluene | 30.0 g | BrCC1=CC=C(C=C1)C | C8H9Br
